* source TLV3605
* PSpice Model Editor - Version 17.4.0
*$
* TLV3605
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TLV3605
* Date: 7/20/23
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.4.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SNOSDA2D
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web        
*
*****************************************************************************
* Model Notes:
*  Modeled parameters:
*  Supply Voltage Range (see below)
*  Input Voltage Range (see below)
*  Supply Current (typical)
*  Input Bias Currents (typical)
*  Typical Offset Voltage (see below)
*  Propagation Delay (fixed)

* LE_HYST pin: This pin can accept a resistor or external voltage to set 
* the hysteresis voltage up to 60mV.  Some simulators will not accept a floating 
* pin, so connect a 1G resistor from LE_HYST to VEE to set 0mV hysteresis.
* Output is latched when LE_HYST is 0V to 0.4V (referenced to VEE).
*
* SHUTDOWN: Each output is lightly pulled-down to VEE by internal 10M 
* resistors to prevent floating node or convergence errors during shutdown.
* These resistors are not required on the actual device. 
*
* Error Conditions:
* If either input goes beyond the recommended input voltage range, each output (OUT+ and OUT-) will go to 0V.
* If the supply goes beyond the recommended supply voltage range, each output (OUT+ and OUT-) will go to 0V. 
* The real device will NOT do this.
*
* OFFSET VOLTAGE: Offset voltage can be adjusted in the macro with device V_VOS
* VEE: In some simualtors (Cadence), it may be necessary to add
* a 1u resistor in series with VEE to ciruit GND (0 node) for proper operation
* (to break up the VEE and zero nodes).
*
*****************************************************************************
.SUBCKT TLV3605 IN+ IN- LEHY SHDN VCCI VCCO VEE OUT+ OUT-  
C_CINNL         VEE IN-  0.5p  TC=0,0 
C_CINNH         IN- VCCI  0.5p  TC=0,0 
C_CINPL         VEE IN+  0.5p  TC=0,0 
C_CINPH         IN+ VCCI  0.5p  TC=0,0 
X_U11         SHDN VLOGIC 0 SHUTDOWN_IQ_CONTROL VCCI_BUFFER VEE_BUFFER
+  SHUTDOWNCURRENT 
X_Supply_Currents EN SHUTDOWN_IQ_CONTROL VCCI VCCO VEE Supply_Currents  
I_I1         SHDN N8917111 DC 1uA  
V_V8         VLOGIC 0 1
R_RISD         VEE N8917111  1 TC=0,0 
X_LATCH_DEALY N893364 LATCH LATCH_DELAY  
X_U12 LATCH N893591 N891263 LATCH  
V_VOS         N892466 IN+BUFF 0.5m
I_IBP         IN+ VEE DC 1u  
I_IBN         IN- VEE DC 1u  
X_U3         N892466 IN-BUFF N892600 VCCI_BUFFER VEE_BUFFER VHYST HPA_COMPHYS
X_U18 IN+ IN+BUFF IN- IN-BUFF Input_Buffer  
X_U4 N892600 N891263 Prop_Delay  
X_U19 IN-BUFF IN+BUFF N891299 VCCI_BUFFER VEE_BUFFER INPUTRANGE  
X_U9         LEHY VEE 0 VCCI_BUFFER N893364 VHYST LE_HYST
X_U5 EN N891299 OUT+ OUT- SHUTDOWN_IQ_CONTROL VEE_BUFFER N893591 Output_Stage  
X_U7 EN VCCI_BUFFER VEE_BUFFER Supply_Enable  
X_U6 VCCI VCCI_BUFFER VEE VEE_BUFFER Supply_Buffer  
.ENDS
 
.SUBCKT Supply_Buffer VCC VCCI_BUFFER VEE VEE_BUFFER  
X_U1         VCC VEE VCCI_BUFFER VEE_BUFFER SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Supply_Enable EN VCCI_BUFFER VEE_BUFFER  
X_U17         N784697 N784807 EN 1V 0 ORGATE 
V_VS_MAX_SET         N784593 0 5.56
V_VLOGIC         1V 0 1
X_U5         N784683 N784593 N784697 1V 0 VCC_Range
X_U15         N785081 N784683 POR 1V 0 VCC_Range
X_U16         N784909 N784683 N784807 1V 0 VCC_Range
V_VS_MIN_SET1         N784909 0 2.39
X_U13         VCCI_BUFFER VEE_BUFFER N784683 1V 0 Difference
V_VS_MIN_SET         N785081 0 2.39
.ENDS
 
.SUBCKT Output_Stage EN IN_RANGE OUT+ OUT- SHUTDOWN VEE_BUFFER VIN  
V_VLOGIC         1V 0 1
X_U2         IN_RANGE EN OUTOFRANGE 1V 0 ORGATE
X_U10         OUTOFRANGE SHUTDOWN_OUT OUTPUT_SHUTDOWN 1V 0 ORGATE
X_U4         1V 0 SHUTDOWN VEE_BUFFER SHUTDOWN_OUT SHUTDOWNOUTPUT
X_S16    OUTPUT_SHUTDOWN 0 N903506 OUT+ Output_Stage_S16 
R_R6         0 OUT+  100MEG TC=0,0 
R_R4         N903474 N903506  0.1 TC=0,0 
V_V17         N903930 N9040901 -175m
X_S6    VIN 0 N903460 N903930 Output_Stage_S6 
C_C2         0 N903742  5p  TC=0,0 
V_V18         N9040901 VEE_BUFFER 1.2
X_S3    VIN 0 N903216 N903474 Output_Stage_S3 
X_S17    OUTPUT_SHUTDOWN 0 OUT- N903742 Output_Stage_S17 
C_C1         0 N903506  5p  TC=0,0 
R_R5         N903460 N903742  0.1 TC=0,0 
X_S4    0 VIN N903474 N903930 Output_Stage_S4 
V_V14         N9032561 VEE_BUFFER 1.2
V_V16         N903216 N9032561 175m
X_S5    0 VIN N903216 N903460 Output_Stage_S5 
R_R7         0 OUT-  100MEG TC=0,0 
.ENDS
 
.SUBCKT INPUTRANGE INN INP INRANGE V+_BUFFER V-_BUFFER  
V_VCMNN         N20539 V-_BUFFER -0.3
X_U1         N20155 INP N20826 V+_BUFFER V-_BUFFER VINRANGE_393
X_U21         N202710 INN N20833 V+_BUFFER V-_BUFFER VINRANGE_393
X_U22         INP N20415 N20840 V+_BUFFER V-_BUFFER VINRANGE_393
X_U23         INN N20539 N20531 V+_BUFFER V-_BUFFER VINRANGE_393
V_VCMPN         N202710 V+_BUFFER 0.3
V_VCMNP         N20415 V-_BUFFER -0.3
V_VCMPP         N20155 V+_BUFFER 0.3
X_U24         N20826 N20833 N20840 N20531 INRANGE V+_BUFFER V-_BUFFER 4ORGATE 
.ENDS
 
.SUBCKT Prop_Delay VIN VOUT  
T_T1         N065860 0 VOUT 0 Z0=50 TD=800p  
R_RT2         0 VOUT  50 TC=0,0 
R_RT1         N065860 N06672  50 TC=0,0 
E_E1         N06672 0 VIN 0 2
.ENDS
 
.SUBCKT Input_Buffer IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT LATCH LATCH OUT VIN  
X_U4         N11903 N11937 N11909 VLOGIC 0 ANDGATE
V_V1         VLOGIC 0 5
X_U3          OUT N12289 N11943 VLOGIC 0 NORGATE
V_V8         N12181 0 0
X_U6         LATCH N11937 N12017 N12181 VLOGIC 0 DIGLEVSHIFT
X_U2          N11909 N11943 OUT VLOGIC 0 NORGATE
V_V7         N12017 0 5
X_U1         VIN N11903 VLOGIC 0 INVERTER
X_U5         N11937 VIN N12289 VLOGIC 0 ANDGATE
.ENDS
 
.SUBCKT LATCH_DELAY VIN VOUT  
T_T1         N059950 0 VOUT 0 Z0=50 TD=1n  
R_RT2         0 VOUT  50 TC=0,0 
E_E1         N06081 0 VIN 0 2
R_RT1         N059950 N06081  50 TC=0,0 
.ENDS
 
.SUBCKT Supply_Currents PBAD SHUTDOWN_IN VCCI VCCO VEE  
V_V2         N833564 0 5.2m
X_U2         VCCI VEE SHUTDOWN_IN N833572 N833598 PBAD IS_SET
V_V1         N833584 0 100u
V_V3         N833598 0 1.5m
X_U1         VCCO VEE SHUTDOWN_IN N833564 N833584 PBAD IS_SET
V_V4         N833572 0 7.5m
.ENDS

.subckt Output_Stage_S16 1 2 3 4  
S_S16         3 4 1 2 _S16
RS_S16         1 2 1G
.MODEL         _S16 VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_S16

.subckt Output_Stage_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e12 Ron=1.0 Voff=1.25 Von=2.5
.ends Output_Stage_S6

.subckt Output_Stage_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e12 Ron=1.0 Voff=1.25 Von=2.5
.ends Output_Stage_S3

.subckt Output_Stage_S17 1 2 3 4  
S_S17         3 4 1 2 _S17
RS_S17         1 2 1G
.MODEL         _S17 VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_S17

.subckt Output_Stage_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e12 Ron=1.0 Voff=-2.5 Von=-1.25
.ends Output_Stage_S4

.subckt Output_Stage_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=1e12 Ron=1.0 Voff=-2.5 Von=-1.25
.ends Output_Stage_S5

.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS
*$
.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
*E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }

E1 3 0 VALUE = { IF( V(1) < 1, V(VSS_NEW), V(VDD_NEW) ) }

R1 3 2 1
*C1 2 0 1e-12
.ENDS
*$
.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS
*$
.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS
*$
.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$

.SUBCKT NORGATE 1 2 OUT VDD VSS
EOUT OUT2 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS

.SUBCKT ANDGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT Difference 1 2 OUT VDD VSS 
EOUT OUT1 0 VALUE = { V(1)- V(2)}
R1 OUT1 OUT 1
*C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
.ENDS
*$
.SUBCKT VCC_Range 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VINRANGE_393 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.MODEL NPN1 NPN LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n 
*$
.MODEL PNP1 PNP LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n 
*$

.SUBCKT 4ORGATE 1 2 3 4 5 VDD VSS
E1 6 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) | (V(2)> (V(VDD)+V(VSS))/2 ) | (V(3)> (V(VDD)+V(VSS))/2 ) | (V(4)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 5 6 1
.ENDS

.SUBCKT LE_HYST LEHYST V- V-_BUF V+_BUF LATCH_OUT HYST_OUT
V_VLATCH         N00729 V- 1.25
R_RPU         N00729 LEHYST  40k TC=0,0 
E_EIN         VLE V-_BUF LEHYST V- 1
R_R1         V-_BUF LATCH_OUT  1k TC=0,0 
R_R2         V-_BUF VLE  1k TC=0,0
R_R3         V-_BUF HYST_OUT  1k TC=0,0  
E_ELATCH   LATCH_OUT V-_BUF VALUE = { IF( V(VLE)<= 0.4, 0, 5 ) }
*E_EHYST     HYST_OUT V-_BUF VALUE = { IF( V(VLE)<= 1.25,V(VLE),0 ) }
E_EHYST     HYST_OUT V-_BUF TABLE {V(VLE)} = (0.4,0)
+(0.5,0.0636)
+(0.55,0.0636)
+(0.6,0.0636)
+(0.65,0.0636)
+(0.7,0.0635)
+(0.71,0.0636)
+(0.72,0.0635)
+(0.73,0.0636)
+(0.74,0.0634)
+(0.75,0.0635)
+(0.76,0.0638)
+(0.77,0.0637)
+(0.78,0.0637)
+(0.79,0.0637)
+(0.8,0.0636)
+(0.81,0.0636)
+(0.82,0.0636)
+(0.83,0.0636)
+(0.84,0.0425)
+(0.85,0.0411)
+(0.86,0.0398)
+(0.87,0.0386)
+(0.88,0.0371)
+(0.89,0.0359)
+(0.9,0.0347)
+(0.91,0.0334)
+(0.92,0.032)
+(0.93,0.0309)
+(0.94,0.0296)
+(1,0.0223)
+(1.05,0.0164)
+(1.1,0.0108)
+(1.15,0.0056)
+(1.2,0.0007)
+(1.25,0)
.ENDS

.subckt SHUTDOWNCURRENT SHUTDOWN 2 3 OUT VDD VSS
EOUT OUT2 0 VALUE = {IF ((V(SHUTDOWN) > (V(VSS) + 0.4)), V(2), V(3))}
R1 OUT OUT2 1
C1 OUT 0 1e-12 
.ENDS
*$
.subckt SHUTDOWNOUTPUT DISABLE ENABLE SHUTDOWN  VSS OUT
EOUT OUT 0 VALUE = {IF ((V(SHUTDOWN) <= (V(VSS) + 0.4)), V(DISABLE), V(ENABLE))}
C1 OUT 0 1e-12
.ENDS
*$

.SUBCKT IS_SET VCC VEE DISABLE VIEN VIDIS PBAD
GIS VCC1 VEE VALUE = { IF ( (V(PBAD) > 0.5) , 1u , IF ( V(DISABLE) > 0.5, V(VIEN), V(VIDIS) ) ) }
RIS VCC1 VCC 1
*RIS2 VCC VEE 100000000
.ENDS
*$
