* source TLV3605
.EXTERNAL INPUT V-
.EXTERNAL INPUT VCCI
.EXTERNAL INPUT SHDN
.EXTERNAL INPUT VCCO
.EXTERNAL INPUT OUTN
.EXTERNAL INPUT OUTP
.EXTERNAL INPUT IN-
.EXTERNAL INPUT IN+
R_R2         0 V-  1m TC=0,0 
V_V1         IN+ 0  
+SIN 1.65 50m 100Meg 0 0 0
V_VINN2         VCCO 0 3.3
R_R4         0 N8479570  150k TC=0,0 
R_R5         OUTN OUTP  100 TC=0,0 
V_VINN3         VCCI 0 3.3
V_VINN4         SHDN 0 3.3
V_VINN5         IN- 0 1.65
X_U1         IN+ IN- N8479570 SHDN VCCI VCCO V- OUTP OUTN TLV3605
