* source TEST2
X_D1         0 N00127 BAT14-03w/INF
I_I1         N00127 N00154 DC 100mAdc  
V_V3         N00154 0 -5Vdc
V_V4         N00784 0  
+PULSE 5 3.3 100n 1n 1n 100n 300n
V_V5         N01384 0 5Vdc
X_Q1         N00127 N00784 N01384 BFQ256/PLP
